US09212187B2
Synthesis of 2-nitro-N-(2-pyridin-3-ylethyl)benzenesulfonamide
2-Nitrobenzene sulfonyl chloride(11.64 g) was added to a dichloromethane solution (100 ml) of 3-(2-aminoethyl)pyridine(6.11 g) and triethylamine(9 ml) at 0° C. The mixture was stirred at room temperature for 2 hours. Water was added to the reaction mixture, followed by extraction with dichloromethane. The organic layer was dried with anhydrous sodium sulfate, and condensed under reduced pressure. The residue was crystallized from ethyl acetate to give the title compound(5.06 g) as a yellow powder.

reactant | 2-Nitrobenzene sulfonyl chloride | 11.64 g | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | dichloromethane | 100 ml | ClCCl | CH2Cl2
reactant | 3-(2-aminoethyl)pyridine | 6.11 g | NCCC=1C=NC=CC1 | C7H10N2
reactant | triethylamine | 9 ml | C(C)N(CC)CC | C6H15N
solvent | Water | O | H2O
product | 2-nitro-N-(2-pyridin-3-ylethyl)benzenesulfonamide | 5.06 g | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)NCCC=1C=NC=CC1 | C13H13N3O4S
